US04273704
19.6 Grams of Boc-L-tyrosyl-L-threonine methyl ester are dissolved in 75 ml of 2 M potassium hydroxide solution at room temperature. After 30 minutes the aqueous solution is extracted with 20 ml of ethyl acetate, acidified with cold 1 M potassium bisulfate, and extracted with four 25 ml portions of ethyl acetate. The combined extracts are washed with saturated sodium chloride solution, dried over sodium sulfate and filtered. The solvent is removed under reduced pressure to give Boc-L-tyrosyl-L-threonine.

reactant | Boc-L-tyrosyl-L-threonine methyl ester | COC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O)[C@H](O)C)=O | C19H28N2O7
solvent | potassium hydroxide | 2 M, 75 ml | [OH-].[K+]
product | Boc-L-tyrosyl-L-threonine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H]([C@H](O)C)C(=O)O | C18H26N2O7
